US06184225B2
Methyl chloroformate (16.35 ml, 0.173 mol) was added to a solution of 2,4difluorophenol (25 g, 0.192 mol) and sodium hydroxide (8.1 g, 0.203 mol) in water (140 ml). The mixture was stirred at ambient temperature for 2 hours and then extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and the volatiles removed by evaporation to give 2,4-difluoro-1-methoxycarbonyloxybenzene (32 g, 89%).

reactant | Methyl chloroformate | 0.173 mol, 16.35 ml | ClC(=O)OC | C2H3ClO2
reactant | 2,4difluorophenol | 0.192 mol, 25 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | sodium hydroxide | 0.203 mol, 8.1 g | [OH-].[Na+]
solvent | water | 140 ml | O | H2O
product | 2,4-difluoro-1-methoxycarbonyloxybenzene | 32 g, 89% | FC1=C(C=CC(=C1)F)OC(=O)OC | C8H6F2O3
